* OVERALL BEST CANDIDATE: 00_Phase_2_80V_to_9V_Specialized_Buck_g2_cand3_b9
* FITNESS SCORE: 0.9816
*
* Generated: 2026-06-04T23:04:25
* Constraint: Phase 2: 80V to 9V Specialized (Buck)
*   vin_min = 70
*   vin_max = 90
*   vout_target = 9
*   efficiency_target = 0.86
*   power_in = 80
* Candidate: 6 of 12
* Grouped name: g2_cand3
*
* 80V to 9V SEPIC
Vin in 0 80
L1 in sw1 47u
M1 sw1 gate1 0 0 NMOS W=1 L=1
C1 sw1 sw2 22u
L2 sw2 0 22u
D1 sw2 out DIODE
C2 out 0 100u
Rload out 0 1.01
Rbleed sw1 0 1Meg
Rbleed1 sw2 0 1Meg
Vgate1 gate1 0 PULSE(0 12 0 1n 1n 1.16u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 1u 10m
.save V(*) I(*)
.end
