* === GLOBAL BEST TOPOLOGY ===
* Candidate: cand_4
* Fitness: 0.5540
*
* --- Active Constraints ---
* _comment: Phase 2: 80V to 9V Specialized (Buck)
* vin_min: 70
* vin_max: 90
* vout_target: 9
* efficiency_target: 0.86
* power_in: 80
*
* --- Raw Metrics & Components ---
* simulation_output_voltage: -0.000000
* efficiency: 0.000000
* total_volume_cm3: 20.802783
* total_components: 6
* ============================

* 70V to 9V SEPIC
Vin in 0 70
L1 in sw1 10u
M1 sw1 gate1 0 0 NMOS W=1 L=1
C1 sw1 sw2 47u
L2 sw2 0 10u
D1 sw2 out DIODE
C2 out 0 100u
Rload out 0 0.826
Rbleed sw1 0 1Meg
Rbleed1 sw2 0 1Meg
Vgate1 gate1 0 PULSE(0 12 0 1n 1n 9.8u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 10n 1m
.save V(*) I(*)
.end